US07151105B2
Step 1: 1-(2-Fluoroethyl)-3,5-dimethyl-1H-pyrazole
To a suspension of sodium hydride (1.37 mol, (60% in oil) in DMF (350 mL) was added 3,5-dimethyl-1H-pyrazole (120 g, 1.25 mol). After this, the reaction mixture was stirred for 1 h at room temperature and treated with 1-bromo-2-fluoroethane (175 g, 1.37 mol) in DMF (200 mL). The reaction mixture was left to stir overnight, diluted with water (2 L), and the product was extracted with ethyl acetate (3×300 mL). The combined organic extracts were washed with water (1 L), dried with sodium sulfate, and evaporated. The liquid residue (120 g) was chromatographed on a “Biotage” apparatus with silica gel using ethyl acetate/hexane (1:5) as the eluent (Rf=0.3) to give 88 g (49.7%) of the title product.

reactant | sodium hydride | [H-].[Na+]
reactant | 3,5-dimethyl-1H-pyrazole | 1.25 mol, 120 g | CC1=NNC(=C1)C | C5H8N2
reactant | 1-bromo-2-fluoroethane | 1.37 mol, 175 g | BrCCF | C2H4BrF
solvent | DMF | 350 mL | CN(C)C=O | C3H7NO
solvent | DMF | 200 mL | CN(C)C=O | C3H7NO
solvent | water | 2 L | O | H2O
product | 1-(2-Fluoroethyl)-3,5-dimethyl-1H-pyrazole | 88 g, 49.7% | FCCN1N=C(C=C1C)C | C7H11FN2
